US05597825
3-(5-Carboxyvalerylamino)-3'-guanidinobiphenyl
Prepared by refluxing 3-amino-3'-[(5-carboxyvaleryl)amino]biphenyl hydrochloride with cyanamide in dioxane for 3 hours.

reactant | 3-amino-3'-[(5-carboxyvaleryl)amino]biphenyl hydrochloride | Cl.NC=1C=C(C=CC1)C1=CC(=CC=C1)NC(CCCCC(=O)O)=O
reactant | cyanamide | N#CN | CH2N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(5-Carboxyvalerylamino)-3'-guanidinobiphenyl | C(=O)(O)CCCCC(=O)NC=1C=C(C=CC1)C1=CC(=CC=C1)NC(=N)N | C19H22N4O3
